US07319103B2
8-Chloro-5H,7H-6-oxa-1,4,8a-triaza-s-indacene
Using the method described for the preparation of 10-chloro-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene, the reaction of 5H,7H-6-Oxa-1,4,8a-triaza-s-indacen-8-ol and phosphorus oxychloride provided the title compound.

reactant | 10-chloro-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | ClC=1N2N=CC=C2N=C2C1CCCCC2 | C11H12ClN3
reactant | 5H,7H-6-Oxa-1,4,8a-triaza-s-indacen-8-ol | N1=CC=C2N=C3COCC3=C(N12)O | C8H7N3O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-Chloro-5H,7H-6-oxa-1,4,8a-triaza-s-indacene | ClC1=C2COCC2=NC2=CC=NN12 | C8H6ClN3O
